data/oMe_Silver.jsonl
{"reaction_id": "NR-213_1-c2ccccc2_2-Cc2ccccc2_3-C2CC2_4-CC","level": "medium","name": "Payne Epoxidation","reactants_smiles": ["OO","N#C(c2ccccc2)","C(Cc2ccccc2)=C(C2CC2)(CC)"],"products_smiles": ["C(Cc2ccccc2)1OC1(C2CC2)(CC)"],"conditions": "base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]O","step_weight": 0,"rationale": "Base deprotonates hydrogen peroxide, generating a hydroperoxide anion stabilized by resonance and inductive effects, increasing nucleophilicity for the next step."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[N-]=C(OO)(c2ccccc2)","step_weight": 0,"rationale": "The hydroperoxide anion attacks the electrophilic carbon of the isocyanide, whose electron-deficient nature arises from the polarized C≡N bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OOC(=N)(c2ccccc2)","step_weight": 0,"rationale": "Proton transfer converts the anionic intermediate into a neutral peroxyimidate, stabilizing the leaving group for the upcoming oxygen transfer."},{"step": 4,"type": "pericyclic","subtype": "group_transfer","intermediate_smiles": "C(Cc2ccccc2)1OC1(C2CC2)(CC)","step_weight": 0,"rationale": "A concerted pericyclic oxygen transfer occurs, driven by the electrophilicity of the alkene and the strong thermodynamic preference for forming the stable three-membered epoxide ring."}],"description": "Under basic conditions, hydrogen peroxide is deprotonated to form a more nucleophilic hydroperoxide anion, which attacks the electrophilic carbon of an isocyanide to form a peroxyimidate. Subsequent proton transfer and a concerted oxygen transfer to the alkene yield the epoxide via a Payne-type mechanism."}
{"reaction_id": "NR-335_1-c2ccc(OC)cc2_2-C#N_3-F_4-C_5-C(C)C_6-CC_7-C","level": "medium","name": "Robinson Annulation","reactants_smiles": ["C(=C(F)C(=O)C)(c2ccc(OC)cc2)C#N","C(C(C)C)(CC)C(=O)C"],"products_smiles": ["C1(=C(C)C(=O)C(C(c2ccc(OC)cc2)(C#N)C1(C(C)C)CC)F)C"],"conditions": "Catalytic base","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C(C)C)CC)([O-])C","step_weight": 0,"rationale": "The base abstracts an α-proton adjacent to the carbonyl, generating a resonance-stabilized enolate due to delocalization over the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)(C(C(c2ccc(OC)cc2)(C#N)C(=C([O-])CC)F)(C(C)C)CC)C","step_weight": 0,"rationale": "The nucleophilic enolate attacks the β-carbon of the α,β-unsaturated carbonyl via Michael addition, favored by conjugation and electrophilicity at the β-position."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(c2ccc(OC)cc2)(C#N)C(F)C(=O)CC)(C(C)C)CC)C","step_weight": 0,"rationale": "Protonation of the enolate oxygen regenerates a neutral carbonyl, stabilizing the intermediate and preparing for further enolate formation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(c2ccc(OC)cc2)(C#N)C(F)C([O-])=CC)(C(C)C)CC)C","step_weight": 0,"rationale": "The base deprotonates another α-position, forming a new enolate that is positioned for intramolecular nucleophilic attack."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(C)C(=O)C(C(c2ccc(OC)cc2)(C#N)C1(C(C)C)CC)F)(C)[O-]","step_weight": 0,"rationale": "The enolate attacks the intramolecular carbonyl, forming a six-membered ring via aldol cyclization, favored by minimal ring strain."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C)=C([O-])C(C(c2ccc(OC)cc2)(C#N)C1(C(C)C)CC)F)(C)O","step_weight": 0,"rationale": "Proton transfer converts the alkoxide intermediate into a β-hydroxy carbonyl, setting up for elimination."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=C(C)C(=O)C(C(c2ccc(OC)cc2)(C#N)C1(C(C)C)CC)F)C","step_weight": 0,"rationale": "Base-induced elimination of water forms the α,β-unsaturated carbonyl, driven by conjugation and thermodynamic stability of the enone."}],"description": "Under basic conditions, the Robinson annulation proceeds via enolate formation, Michael addition to an α,β-unsaturated carbonyl, followed by intramolecular aldol condensation and dehydration. The base promotes enolate generation, facilitates C–C bond formation, and drives cyclization to the conjugated cyclohexenone product."}
